US07423036B2
b) 3-(4-chloro-phenyl)-5-methyl-1H-[1,2,4]triazole
6.10 g (28.8 mmol) 4-chloro-benzoic acid N′-(1-imino-ethyl)-hydrazide are heated to 180° C. for 30 minutes. After cooling 2.3 g product are obtained from the residue by recrystallisation in chloroform. Evaporation of the mother liquor and subsequent purification of the residue by chromatography (silica gel, petroleum ether/ethyl acetate=1:6) yield an additional 1.22 g of product. White solid.

reactant | 4-chloro-benzoic acid N′-(1-imino-ethyl)-hydrazide | 28.8 mmol, 6.10 g | N=C(C)NNC(C1=CC=C(C=C1)Cl)=O | C9H10ClN3O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(4-chloro-phenyl)-5-methyl-1H-[1,2,4]triazole | 1.22 g | ClC1=CC=C(C=C1)C1=NNC(=N1)C | C9H8ClN3
